US05366988
Synthesis of 1-[O-isopropyl-3-(3,3-dimethylbutoxy) benzohydroximoyl]-1H-1,2,4-triazole (Compound 19)
To a solution of 1.6 g (5.6 mmol) of 1-[3-(3,3-dimethylbutoxy)benzohydroximoyl]-1H-1,2,4-triazole dissolved in 100 ml of N,N-dimethylformamide was added 0.16 g (6.7 mmol) of sodium hydride. The mixture was stirred for 20 minutes at 80° C. And then allowed to sit and cool naturally to about 50° C. To the mixture was added 1.1 g (6.5 mmol) of 2-iodopropane and stirred for 1 hour at about 50° C. The reaction mixture was allowed to sit and cool naturally to room temperature. The cooled mixture was poured into water and extracted with ethyl acetate. After being washed with water, the organic layer was dried over anhydrous magnesium sulfate. The solvent in the organic layer was removed under reduced pressure. The residue was purified by column chromatography, thus obtaining 1.4 g (yield: 87%) of the desired product having a refractive index of [nD20 ] 1.5289 at 20° C.

reactant | 1-[3-(3,3-dimethylbutoxy)benzohydroximoyl]-1H-1,2,4-triazole | 5.6 mmol, 1.6 g | CC(CCOC=1C=C(C(=NO)N2N=CN=C2)C=CC1)(C)C | C15H20N4O2
reactant | sodium hydride | 6.7 mmol, 0.16 g | [H-].[Na+]
reactant | 2-iodopropane | 6.5 mmol, 1.1 g | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[O-isopropyl-3-(3,3-dimethylbutoxy) benzohydroximoyl]-1H-1,2,4-triazole | 1.4 g, yield: 87% | C(C)(C)ON=C(C1=CC(=CC=C1)OCCC(C)(C)C)N1N=CN=C1 | C18H26N4O2
